US09302991B2
<Step-2>: 2-acetamido-6-methylisonicotinic acid
A mixture of methyl 2-acetamido-6-methylisonicotinate (1.99 g, 9.56 mmol, Step-1), 0.5M aqueous sodium hydroxide solution (20 mL, 10.0 mmol) and tetrahydrofuran (64 mL) is stirred at room temperature for 2.5 hours. The mixture is acidified by 2M hydrochloric acid and the organic solvent is removed by evaporation. The precipitate is collected by filtration and washed with diisopropyl ether to give 0.81 g (44% yield) of the title compound as a slight yellow solid.

reactant | methyl 2-acetamido-6-methylisonicotinate | 9.56 mmol, 1.99 g | C(C)(=O)NC=1C=C(C(=O)OC)C=C(N1)C | C10H12N2O3
reactant | sodium hydroxide | 10.0 mmol, 0.5M, 20 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | tetrahydrofuran | 64 mL | O1CCCC1 | C4H8O
product | 2-acetamido-6-methylisonicotinic acid | 0.81 g, 44% yield | C(C)(=O)NC=1C=C(C(=O)O)C=C(N1)C | C9H10N2O3
